US04450169
2.74 g of (2-phenoxy-5-thiazolyl)-methanol were added to a solution of 2 g of (1R,3R) 2,2-dimethyl-3-(cyclopentylidenemethyl)-cyclopropane-1-carboxylic acid chloride [described in French Pat. No. 74405 published under No. 1,505,423] in 30 ml of benzene and 0.81 ml of pyridine was added dropwise thereto. The mixture was stirred at 20° C. for 20 hours and was poured into dilute aqueous hydrochloric acid. The decanted aqueous phase was extracted with ether and the combined organic phases were dried and evaporated to dryness under reduced pressure. The residue was chromatographed over silica gel and was eluted with an 8-2 cyclohexane-ethyl acetate mixture to obtain 1.9 g of (2-phenoxy-5-thiazolyl)-methyl (1R,3R) 2,2-dimethyl-3-(cyclopentylidenemethyl)-cyclopropane-1-carboxylate meltingat 67° C.

reactant | (2-phenoxy-5-thiazolyl)-methanol | 2.74 g | O(C1=CC=CC=C1)C=1SC(=CN1)CO | C10H9NO2S
reactant | (1R,3R) 2,2-dimethyl-3-(cyclopentylidenemethyl)-cyclopropane-1-carboxylic acid chloride | 2 g | CC1([C@@H]([C@H]1C=C1CCCC1)C(=O)Cl)C | C12H17ClO
reactant | pyridine | 0.81 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | (2-phenoxy-5-thiazolyl)-methyl (1R,3R) 2,2-dimethyl-3-(cyclopentylidenemethyl)-cyclopropane-1-carboxylate | 1.9 g | CC1([C@@H]([C@H]1C=C1CCCC1)C(=O)OCC1=CN=C(S1)OC1=CC=CC=C1)C | C22H25NO3S
